Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.38980290257
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.28110148388
[C:12][H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-8.74836114287
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.6504709463499998
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.27923388814
[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-7.47031399697
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.81299658501
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:11](=[O:10])[H:12]>>[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12],3.5143407285
[H:1][C:2][O:3][C:4]1[O:5][C:6]1([H:7])[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8],1.37651620389
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-0.982979203591
[O:1]=[C:2]([H:3])[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],2.52761996111
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[H:7],4.61424771587
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12]>>[C:7]=[C:8]([H:9])[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:11][H:12],2.66713918745
[H:1][O:2]/[C:3]([C:4][H:5])=[C:6](/[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]1([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.46487401301
[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:8](\[H:9])[O:10][H:11].[H:7]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-1.98903526532
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.43225236687
[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.93835288632
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]=[C:7]([H:8])[H:9],4.16472141804
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10],3.69177884211
[H:1]/[C:2](=[C:3](/[H:4])[C:5]#[C:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](/[C:3]([H:4])=[C:5]1/[C:6][C:7]1([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.87798365998
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.00388765093
[C:1]#[C:2].[C:3](=[O:4])[H:5]>>[C:1]#[C:2][C:3](=[O:4])[H:5],-4.85594893792
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-4.88609970814
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],-1.11168315741
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],0.945765021859
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],3.36570391793
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.5449133812399998
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]1([H:3])[O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.0029733146
